US08071586B2
v) 6-Benzyl-6-aza-spiro[2.5]octan-4-one hydrochloride
10.8 g (24.4 mmol, 1 eq.) 1-[2-(benzyl-tert-butoxycarbonylmethyl-amino)-ethyl]-cyclopropanecarboxylic acid tert-butyl ester were dissolved in 35 ml tetrahydrofuran. 50 ml (2.05 eq.) 1 M lithium hexamethyldisilazanide solution in tetrahydrofuran were added dropwise over 2.5 h maintaining the temperature between 20° C. and 25° C. After 2 h at room temperature (IPC by HPLC), the reaction mixture (containing the lithium salt of 6-benzyl-4-hydroxy-6-aza-spiro[2.5]oct-4-ene-5-carboxylic acid tert-butyl ester) was cooled to −10° C. (ice ethanol cooling bath) and 75 ml 1 M aq. sulfuric acid solution were added (temperature increased to 2° C.). The reaction mixture was warmed to room temperature and the tetrahydrofuran removed under reduced pressure at 40° C. The resulting reaction mixture was heated to 40° C. for 1 h, was stirred 15 h at room temperature and an additional 3 h at 40° C. to complete the reaction (IPC by GC; intermediate 6-benzyl-4-hydroxy-6-aza-spiro[2.5]oct-4-ene-5-carboxylic acid tert-butyl ester is hydrolyzed and decarboxylation follows). The reaction mixture was cooled to 0° C. and was neutralized to pH 7.4 by addition of 10 ml 2 M aq. sodium hydroxide solution and 50 ml 1 M aq. sodium hydrogencarbonate solution were added, setting the pH to 9.4. The crude solution was extracted with tert-butyl methyl ether and ethyl acetate. The organic phases were combined, dried over sodium sulfate and filtered over a plug of SiO2. The solution was concentrated under reduced pressure (45° C./20 mbar) to give 4.56 g of the crude product as free base. The crude oil was dissolved in 8 ml ethyl acetate, cooled to 0° C. and 5.1 ml hydrogen chloride solution (4.3 M in ethyl acetate) were added dropwise (exotherm 2° C. to 18° C.). The reaction mixture was stirred overnight at room temperature (gummy crystals) and filtered. The filter cake was washed with 10 ml ethyl acetate and dried under reduced pressure until constant weight to give 4.54 g of the title compound as off-white crystals (74% yield).

reactant | 1-[2-(benzyl-tert-butoxycarbonylmethyl-amino)-ethyl]-cyclopropanecarboxylic acid tert-butyl ester | 24.4 mmol, 10.8 g, 1 eq. | C(C)(C)(C)OC(=O)C1(CC1)CCN(CC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C23H35NO4
reactant | lithium hexamethyldisilazanide | 1 M, 50 ml, 2.05 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | lithium | [Li] | Li
reactant | 6-benzyl-4-hydroxy-6-aza-spiro[2.5]oct-4-ene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(C2(CC2)CCN1CC1=CC=CC=C1)O | C19H25NO3
reactant | sulfuric acid | 1 M, 75 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2 M, 10 ml | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 1 M, 50 ml | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | 4.3 M, 5.1 ml | Cl | ClH
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 6-Benzyl-6-aza-spiro[2.5]octan-4-one hydrochloride | 4.54 g, 74% yield | Cl.C(C1=CC=CC=C1)N1CC(C2(CC2)CC1)=O | InChI=1S/C14H17NO.ClH/c16-13-11-15(9-8-14(13)6-7-14)10-12-4-2-1-3-5-12;/h1-5H,6-11H2;1H
